US07982036B2
To a stirring solution of tert-butyl 3-(6-chloropyrimidin-4-ylamino)pyrrolidin-1-carboxylate (0.5 g, 1.6 mmol) and 4-phenoxy aniline (0.309 g, 1.6 mmol) in ethanol (4 mL) was added acetic acid (0.1 mL) and the reaction mixture was heated at 100° C. for 36 h. The reaction mixture was cooled, ethanol was removed under reduced pressure and the residue was taken in ethyl acetate (10 mL). It was washed with NaHCO3 solution (2 mL), brine (2 mL), dried over Na2SO4 and concentrated under reduced pressure. The residue was further purified by column chromatography (SiO2, 60-120, chloroform/methanol, 9/1) to yield tert-butyl 3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)pyrrolidine-1-carboxylate (0.3 g, 42.8%) as a white solid.

reactant | tert-butyl 3-(6-chloropyrimidin-4-ylamino)pyrrolidin-1-carboxylate | 1.6 mmol, 0.5 g | ClC1=CC(=NC=N1)NC1CN(CC1)C(=O)OC(C)(C)C | C13H19ClN4O2
reactant | 4-phenoxy aniline | 1.6 mmol, 0.309 g | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
reactant | acetic acid | 0.1 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | tert-butyl 3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)pyrrolidine-1-carboxylate | 0.3 g, 42.8% | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC1=CC(=NC=N1)NC1CN(CC1)C(=O)OC(C)(C)C | C25H29N5O3
